US07652143B2
t-Butyl 2-(4-(4-methoxybenzyl)-2,2-dioxo-(1,2,3) oxathiazolidin-3-yl)-3-methylbutyrate (1.0 g; 2.5 mmol) was dissolved in acetonitrile (15 ml). Cs2CO3 (1.63 g; 5 mmol) and benzylamine (0.5 ml; 4.5 mmol) were added, The reaction mixture was stirred at 55° C. for 4 h. It was then allowed to reach RT, and the reaction mixture was filtered through a clarifying layer. The residue was washed with acetonitrile. The filtrate was concentrated and taken up in CH2Cl2 (10 ml). Aqueous H2SO4 (20%; 5 ml) was added, and the mixture was stirred at RT for 1.5 h. The phases were then separated, the aqueous phase was extracted with CH2Cl2 (2×), and the combined organic phases were dried over Na2SO4 and concentrated in a rotary evaporator. The crude product was stirred with CH2Cl2/CH3CN/Et2O and concentrated. t-Butyl 2-(2-benzylamino-1-(4-methoxybenzyl)ethylamino)-3-methylbutyrate (1.15 g; 2.5 mmol) was obtained as a yellowish foam. MS: 427.20 (M+H); Rt: 1.42 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | t-Butyl 2-(4-(4-methoxybenzyl)-2,2-dioxo-(1,2,3) oxathiazolidin-3-yl)-3-methylbutyrate | 2.5 mmol, 1.0 g | COC1=CC=C(CC2N(S(OC2)(=O)=O)C(C(=O)OC(C)(C)C)C(C)C)C=C1 | C19H29NO6S
reactant | Cs2CO3 | 5 mmol, 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzylamine | 4.5 mmol, 0.5 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | t-Butyl 2-(2-benzylamino-1-(4-methoxybenzyl)ethylamino)-3-methylbutyrate | 2.5 mmol, 1.15 g | C(C1=CC=CC=C1)NCC(CC1=CC=C(C=C1)OC)NC(C(=O)OC(C)(C)C)C(C)C | C26H38N2O3
